US07858649B2
2-[1-(3-Bromo-phenyl)-1H-imidazol-4-yl]-4,5-dihydro-oxazole
1-(3-Bromo-phenyl)-1H-imidazole-4-carboxylic acid (2-hydroxy-ethyl)-amide (140 mg, 0.45 mmol) was dissolved in CH2Cl2 under argon atmosphere and triethyl amine (321 μL, 2.3 mmol) and para-toluene sulfonic acid (95 mg; 0.5 mmol) were added. After heating for 20 h at reflux the reaction mixture was diluted with water and refluxed for 45 min. After cooling to room temperature the layers were separated and the organic phase was washed with water and dried over Na2SO4. Concentration of the organic layer followed by column chromatography on silica gel with a gradient of 1%-5% MeOH in CH2Cl2 afforded 25 mg (19%) of the title product. HRMS (ESI+): m/z=292.135 [M+H]

reactant | 1-(3-Bromo-phenyl)-1H-imidazole-4-carboxylic acid (2-hydroxy-ethyl)-amide | 0.45 mmol, 140 mg | OCCNC(=O)C=1N=CN(C1)C1=CC(=CC=C1)Br | C12H12BrN3O2
reactant | triethyl amine | 2.3 mmol, 321 μL | C(C)N(CC)CC | C6H15N
reactant | para-toluene sulfonic acid | 0.5 mmol, 95 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 2-[1-(3-Bromo-phenyl)-1H-imidazol-4-yl]-4,5-dihydro-oxazole | 25 mg, 19% | BrC=1C=C(C=CC1)N1C=NC(=C1)C=1OCCN1 | C12H10BrN3O
